US09212160B2
A 100 mL two-neck flask was charged with 4-fluorobenzophenone (15.0 g; 74.9 mmol) and diethanolamine (55.1 g; 524 mmol). The flask was flushed with nitrogen, fitted with a reflux condenser and heated to 155° C. for 48 h under a gentle stream of nitrogen. Complete conversion of the starting 4-fluorobenzophenone was confirmed by TLC. After cooling to ambient temperature, the dark viscous reaction mixture was poured into water (2000 mL). The resulting suspension was thoroughly extracted with diethyl ether (6×250 mL). The aqueous phase was discarded and the organic phase was extracted with hydrochloric acid (2M, 5×200 mL). The pH of the strongly acidic aqueous phase was adjusted to 12-13 by slow addition of 35% aq. ammonia to reprecipitate the product. The aqueous phase was then reextracted with dichloromethane (3×300 mL). The crude organic extract was purified by passing through a short silica gel column (eluent: ethyl acetate). The eluted yellow solution was evaporated and the oily residue dried in vacuo to provide {4-[bis(2-hydroxyethyl)amino]phenyl}(phenyl)methanone (yellow-brown solid; 13.176 g; 62% yield).

reactant | 4-fluorobenzophenone | 74.9 mmol, 15.0 g | FC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9FO
reactant | diethanolamine | 524 mmol, 55.1 g | N(CCO)CCO | C4H11NO2
product | {4-[bis(2-hydroxyethyl)amino]phenyl}(phenyl)methanone | 13.176 g, 62% yield | OCCN(C1=CC=C(C=C1)C(=O)C1=CC=CC=C1)CCO | C17H19NO3
